US07125901B2
Di-tert-butyl {[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate (150 mg) prepared in a similar manner according to Step 5 of Production Example 18 was dissolved in methanol (1.5 ml) and tetrahydrofuran (3 ml) under nitrogen atmosphere. Then N-chlorosuccinimide (59.7 mg) was added to the solution at 0° C. The reaction mixture was stirred at room temperature for 29 hours, and diluted in ethyl acetate. The organic solution was washed with saturated sodium hydrogen carbonate solution, water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residual solid was washed with ethyl ether to give di-tert-butyl {[(4-{2-[2-(acetylamino)-5-chloro-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate (111 mg) as an off-white solid.

reactant | Di-tert-butyl {[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate | 150 mg | C(C)(=O)NC=1SC=C(N1)CCC1=CC=C(C=C1)NC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C24H35N5O5S
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | N-chlorosuccinimide | 59.7 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methanol | 1.5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | di-tert-butyl {[(4-{2-[2-(acetylamino)-5-chloro-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate | 111 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O)Cl | C24H34ClN5O5S
